US08629149B2
O-Tolylaldehyde (10 g, 83.2 mmol), ethylcyanoacetate (9.4 g, 83.2 mmol), and piperidine (1.1 mL, 11 mmol) were heated in toluene at reflux for 1 hour. The reaction was washed with H2O and brine, dried over MgSO4, and concentrated, with the resulting residue purified by chromatography (10-50% EtOAc, petroleum ether) to give ethyl 2-cyano-3-o-tolylacrylate (10.6 g, 59%).

reactant | ethylcyanoacetate | 83.2 mmol, 9.4 g | C(C)OC(CC#N)=O | C5H7NO2
reactant | piperidine | 11 mmol, 1.1 mL | N1CCCCC1 | C5H11N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-cyano-3-o-tolylacrylate | 10.6 g, 59% | C(#N)C(C(=O)OCC)=CC1=C(C=CC=C1)C | C13H13NO2
